US08633134B2
Step 1: Synthesis of 4-[5-(3,5-Dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzaldehyde
A mixture of 4-[5-(3,5-Dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzaldehyde oxime (14.20 g, 31.34 mmol), triethyl silane (10.3 mL, 7.53 g, 62.8 mmol), sodium carbonate (5.43 g, 39.3 mmol), palladium bis(diphenylphosphine)-ferrocene dichloride CH2Cl2-complex (1.28 g, 1.57 mmol) and DMF (250 mL) were stirred under an atmosphere of carbon monoxide at 65° C. over night. After cooling to room temperature, the solvent was evaporated and the residue taken up in MTBE, filtered and the filtrate was concentrated in vacuum. Purification of the residue on silica gel afforded the title compound (9.60 g, 76%).

reactant | 4-[5-(3,5-Dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzaldehyde oxime | 31.34 mmol, 14.20 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C=NO)C=C1)C)C(F)(F)F | C18H13Cl2F3N2O2
reactant | triethyl silane | 62.8 mmol, 10.3 mL, 7.53 g | C(C)[SiH](CC)CC | C6H16Si
reactant | sodium carbonate | 39.3 mmol, 5.43 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
product | 4-[5-(3,5-Dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzaldehyde | 9.60 g, 76% | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C=O)C=C1)C)C(F)(F)F | C18H12Cl2F3NO2
